* C:\Users\Hannes\Documents\Projekte\04_LightspeedCam\01_Laser_Design\05_Simulation\lt8365_boost.asc
* Generated by LTspice 26.0.1 for Windows.
C1 N016 0 2000p
R1 N014 0 130k
V1 IN 0 PULSE(12 0 6m 100p 100p 0.9s 1s)
L1 IN N001 10µ Rser=320m
D1 N001 N008 RB058LAM150
R2 OUT N015 1Meg
R3 N015 0 6.2k
C2 N011 0 1µ
C3 N018 0 1000p
C4 N008 0 .22µ Rser=9m
X§U1 IN N017 IN N001 N011 0 0 N016 N015 N014 0 LT8365 ;§pnba EN/UVLO)VC)VIN)SW)INTVCC)MODE)BIAS)SS)FBX)RT)GND
R4 N017 N018 91k
C5 IN 0 10µ
D2 N005 N002 RB058LAM150
C6 N002 N001 100n
R5 N005 N008 20
D3 N002 OUT RB058LAM150
C7 OUT N008 .22µ Rser=9m
V2 TRIG 0 PULSE(0 1 5m 1p 1p 2n 50u 10)
S1 0 Vcap TRIG 0 FMMT417
C8 Vcap N003 200p
R7 0 N007 0.02
R8 V_DRIVER Vcap 2k
R9 Isense N007 50
R10 0 Isense 50
D5 N007 N004 LASER_PLPT9
L_parasitic N003 N004 0.5n Rser=1m
D6 N003 0 RB058LAM150
D4 N013 0 NSCW100
D7 OUT V_DRIVER 1N4007
R11 N013 N010 130k
R12 N010 N009 130k
R13 N009 N006 130k
R14 N006 V_DRIVER 130k
.model D D
.lib C:\Users\Hannes\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 10m 0 .005m startup
.model FMMT417 SW Ron=2 Roff=1G Vt=.5)
.model LASER_PLPT9 D(Vfwd=5 IS=1e-12 N=2.0 RS=0.2 CJO=5e-12 TT=1e-7 BV=0 IBV=1e-3)
* 10k Poti\n0     -> Max output ~260V\n10k -> Min Output ~100V
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\Hannes\AppData\Local\LTspice\lib\sym\PowerProducts\LT8365.asy)
.lib LT8365.sub
.backanno
.end
